US08974920B2
4-Methyl-N-phenyl-N-p-tolylaniline (G)
4,4′-dimethyldiphenylamine (0.99 g, 5.0 mmol), KOH (2.52 g, 45.0 mmol), CuCl (99 mg, 1.0 mmol) and 1,10-phenanthroline (180 mg, 1.0 mmol) were charged in a two-necked bottle. The bottle was deoxygenated and purged with nitrogen, and added dried toluene (12 mL) and iodobenzene (0.67 ml, 6.0 mmol). The reaction was heated to 120° C., and stirred for 12 hours. The resulting was filtered to remove metal and then concentrated under reduced pressure and the residue was purified by column chromatography (hexanes/CH2Cl2=1/1) to afford G (916 g, 67%) as white solid.

reactant | 4,4′-dimethyldiphenylamine | 5.0 mmol, 0.99 g | CC1=CC=C(C=C1)NC2=CC=C(C=C2)C | C14H15N
reactant | KOH | 45.0 mmol, 2.52 g | [OH-].[K+]
reactant | 1,10-phenanthroline | 1.0 mmol, 180 mg | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | iodobenzene | 6.0 mmol, 0.67 ml | IC1=CC=CC=C1 | C6H5I
catalyst | CuCl | 1.0 mmol, 99 mg | Cl[Cu]
solvent | toluene | 12 mL | C1(=CC=CC=C1)C | C7H8
product | 4-Methyl-N-phenyl-N-p-tolylaniline | CC1=CC=C(N(C2=CC=C(C=C2)C)C2=CC=CC=C2)C=C1 | C20H19N
